US07119122B2
4-Chloro-2-fluorobenzonitrile (0.40 g, 2.6 mmol), 3-ethoxy-4-hydroxybenzaldehyde (0.43 g, 2.6 mmol) and cesium carbonate (0.84 g, 2.6 mmol) were heated with stirring in dry DMF (4 mL) at 50° C. for 20 h. The reaction mixture was cooled, poured into water and extracted with ethyl acetate. The ethyl acetate layer was separated, washed with water (1×), 10% sodium carbonate solution (1×), 0.5N sodium hydroxide solution (1×), water (1×), brine (1×), and dried over MgSO4. After filtration, the solvent was removed in vacuo to yield 4-chloro-2-(2-ethoxy-4-formylphenoxy)benzonitrile (0.67 g, 86%) as a yellow solid.

reactant | 4-Chloro-2-fluorobenzonitrile | 2.6 mmol, 0.40 g | ClC1=CC(=C(C#N)C=C1)F | C7H3ClFN
reactant | 3-ethoxy-4-hydroxybenzaldehyde | 2.6 mmol, 0.43 g | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | cesium carbonate | 2.6 mmol, 0.84 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 4-chloro-2-(2-ethoxy-4-formylphenoxy)benzonitrile | 0.67 g, 86% | ClC1=CC(=C(C#N)C=C1)OC1=C(C=C(C=C1)C=O)OCC | C16H12ClNO3
